US08580790B2
Step a) 4-(Pyridin-2-ylhydrazono)piperidine-1-carboxylic acid tert-butyl ester
The following are charged to a round-bottomed flask with a magnetic stirrer: 5 g of N-Boc-piperidone, 2.45 g of pyridin-2-ylhydrazine, 100 ml of methanol and 95 ml of a solution of methanol saturated with HCl. The mixture is left to react under a nitrogen stream for 2 h at reflux temperature. The solvent is evaporated off under vacuum, the resulting product is dissolved with dichloromethane and washing is carried out with a saturated aqueous solution of NaHCO3. The organic phase is dried over Na2SO4 and the solvent is evaporated off, and 4.0 g of the title product are isolated in the form of a red oil.

reactant | N-Boc-piperidone | 5 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | pyridin-2-ylhydrazine | 2.45 g | N1=C(C=CC=C1)NN | C5H7N3
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 4-(Pyridin-2-ylhydrazono)piperidine-1-carboxylic acid tert-butyl ester | 4.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=NNC1=NC=CC=C1 | C15H22N4O2
